US06667342B1
2-Chloro-4-[4-(2-ethoxyethylthio)anilinosulphonyl]aniline
A solution of 4-acetamidothiophenol (8.35 g, 50.0 mmol), ethylene carbonate (5.5 g, 62.5 mmol) and sodium ethoxide (4.1 g, 60.0 mmol) in ethanol (250 ml) was heated at reflux overnight and then cooled to ambient temperature and evaporated to dryness. The residue was dissolved in diethyl ether (500 ml), washed with 1M aqueous hydrochloric acid and brine, dried and evaporated to dryness. The residue was dissolved in ethanol (120 ml) and 2M aqueous sodium hydroxide (60 ml) was added. The mixture was heated at reflux overnight and then cooled to ambient temperature and evaporated to dryness. Water (25 ml) was added to the residue and the solution was neutralised to pH 7 by the addition of 1M aqueous hydrochloric acid. The aqueous solution was extracted with EtOAc, the EtOAc extracts were washed with brine, dried and evaporated to dryness. The residue was dissolved in DCM (100 ml) and added to a solution of 4-acetamido-3-chlorobenzenesulphonyl chloride (5.5 g, 20.5 mmol), 4-dimethylaminopyridine (50 mg, 0.4 mmol) and pyridine (5.0 ml, 60 mmol) in DCM (100 ml). The mixture was stirred at ambient temperature overnight, the solution was evaporated to dryness, the residue dissolved in diethyl ether (450 ml), washed with 1M aqueous hydrochloric acid and brine, dried and evaporated to dryness. The residue was dissolved in ethanol (100 ml) and 2M aqueous sodium hydroxide (25 ml) was added. The mixture was heated at reflux overnight and then cooled to ambient temperature and evaporated to dryness. Water (25 ml) was added to the residue and the solution was neutralised to pH 7 by the addition of 1M aqueous hydrochloric acid. The aqueous solution was extracted with EtOAc, the EtOAc extracts were washed with brine, dried and evaporated to dryness. The residue was purified by column chromatography using 10% EtOAc in DCM to yield the title compound (1.53 g, 3.96 mmol). NMR: 1.0 (t, 3H), 3.0 (t, 2H), 3.3-3.5 (m, 4H), 6.2 (s, 2H), 6.75 (d, 1H), 7.0 (d, 2H), 7.2 (d, 2H), 7.3 (dd, 1H), 7.45 (d, 1H); MS: 385.

reactant | 4-acetamidothiophenol | 50.0 mmol, 8.35 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
reactant | ethylene carbonate | 62.5 mmol, 5.5 g | C1(OCCO1)=O | C3H4O3
reactant | sodium ethoxide | 60.0 mmol, 4.1 g | [O-]CC.[Na+]
reactant | 4-acetamido-3-chlorobenzenesulphonyl chloride | 20.5 mmol, 5.5 g | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)Cl)Cl | C8H7Cl2NO3S
reactant | pyridine | 60 mmol, 5.0 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | 4-dimethylaminopyridine | 0.4 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloro-4-[4-(2-ethoxyethylthio)anilinosulphonyl]aniline | 3.96 mmol, 1.53 g | ClC1=C(N)C=CC(=C1)S(=O)(=O)NC1=CC=C(C=C1)SCCOCC | C16H19ClN2O3S2
